US07202244B2
A solution of [3-(4-Chloro-2-nitro-phenoxy)-propyl]-carbamic acid tert-butyl ester (1.78 g) was hydrogenated in ethanol (50 ml) in presence of Platinum oxide (178 mg) for 2 hours. The mixture was filtrated over a pad of celite and concentrated under vacuum. The crude reaction was purified by flash chromatography to afford [3-(2-Amino-4-chloro-phenoxy)-propyl]-carbamic acid tert-butyl ester (1.39 g, yield=86%) as a viscous oil which solidified slowly:

reactant | [3-(4-Chloro-2-nitro-phenoxy)-propyl]-carbamic acid tert-butyl ester | 1.78 g | C(C)(C)(C)OC(NCCCOC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H19ClN2O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Platinum oxide | 178 mg | [Pt]=O
product | [3-(2-Amino-4-chloro-phenoxy)-propyl]-carbamic acid tert-butyl ester | 1.39 g, yield=86% | C(C)(C)(C)OC(NCCCOC1=C(C=C(C=C1)Cl)N)=O | C14H21ClN2O3
